US07714023B2
Synthesis of 2-Methyl-propane-2-sulfinic acid [3-[5-cyano-1-(4-fluorophenyl)-1,3-dihydro-isobenzofuran-1-yl]-propyl]-amide (8)
1-(4-fluorophenyl)-1-(3-oxopropyl)-1,3-dihydro-isobenzofuran-5-carbonitrile (3.0 g) was dissolved in THF (20 mL), followed by addition of (−)-tert-butylsulfinamide (1.5 g), and Ti (OEt)4 (20 mL, Aldrich) in EtOH. The reaction mixture was stirred at room temperature for 10 min, and 55° C. for 1 h. The reaction mixture was cooled to 5-10° C., was added brine (50 mL), and EtOAc (150 mL). The reaction mixture was stirred at room temperature for 10 min and filtered. The EtOAc layer in the filtrate was separated and washed with brine and concentrated to give a crude oil. It was dissolved in THF (20 ml), cooled to 5-10° C. and added NaBH4 (1.6 g) Methanol (10 mL). The reaction mixture was stirred for 14 h, quenched with water at 5-10° C., extracted with EtOAc (100 mL). The extract was washed with brine and concentrated to give the crude product (3.5 g). It was passed through a silica gel column using EtOAc and hexane (8:2) to give the pure product (2.5 g) as a mixture of possible diastereomers. 1H NMR (CDCl3, δ): 1.19 (s, 9H), 1.40-1.60 (m, 2H), 2.10-2.30 (m, 2H), 3.05-3.30 (m, 3H), 5.17 (m, 2H). 7.00 (m, 2H), 7.40-7.60 (m, 5H). 13C NMR(CDCl3, δ): 22.4, 25.6, 38.1, 45.4, 55.4, 71.1, 90.7, 111.6, 115.1, 115.4, 118.4, 122.6, 125.1, 126.5, 126.6, 131.8, 139.1, 140.1, 149.0, 160.2, 163.5.

reactant | 1-(4-fluorophenyl)-1-(3-oxopropyl)-1,3-dihydro-isobenzofuran-5-carbonitrile | 3.0 g | FC1=CC=C(C=C1)C1(OCC2=CC(=CC=C12)C#N)CCC=O | C18H14FNO2
reactant | (−)-tert-butylsulfinamide | 1.5 g | C(C)(C)(C)S(=O)N | C4H11NOS
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
reactant | NaBH4 | 10 mL, 1.6 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Methyl-propane-2-sulfinic acid [3-[5-cyano-1-(4-fluorophenyl)-1,3-dihydro-isobenzofuran-1-yl]-propyl]-amide | 2.5 g | C(#N)C=1C=C2COC(C2=CC1)(C1=CC=C(C=C1)F)CCCNS(=O)C(C)(C)C | C22H25FN2O2S
